US07569604B2
3-Methyl-2,3-dihydro-indole-1-carbaldehyde
Indoline (23.3 g, 175 mmol) with formic acid (11.5 ml, 305 mmol) was refluxed in toluene (250 mL) with a Dean-Stark trap to collect the formed water. After 1 h of reflux, 6 mL of water was tapped off and the reaction mixture was cooled to RT, some greenish solid was formed in the mixture. Water (250 mL) was added and the organic layer was washed with another portion of water (250 mL) and with brine (250 mL), dried over Na2SO4, filtered and evaporated to dryness. Yield: 22.5 g (80% of a yellow oil, identified as 3 by 1H-NMR. This crude material was crystallized from 2-propanol, the formed crystals were collected by filtration and washed with 2-propanol. Yield: 3.0 g (11%). The mother liquor was evaporated to dryness and the residue was purified by column chromatography (Silica, EtOAc: heptanes=1:3→1:1). Yield: 15.5 g (55%) of a yellowish oil that crystallized upon standing. The two portions were combined and used as such in the next step.

reactant | Indoline | 175 mmol, 23.3 g | N1CCC2=CC=CC=C12 | C8H9N
reactant | formic acid | 305 mmol, 11.5 ml | C(=O)O | CH2O2
reactant | Water | 250 mL | O | H2O
reactant | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | 3-Methyl-2,3-dihydro-indole-1-carbaldehyde | CC1CN(C2=CC=CC=C12)C=O | C10H11NO
